US06008243
4-Biphenylboronic acid was prepared differently than described in the literature (see Yabroff, D. L.; Branch, G. E.; Bettman, B. J. Am. Chem. Soc. 1934, 56, 1850-1857). To a solution of 4-bromobiphenyl (2.00 g, 8.58 mmol) in THF (20 mL) at -78° C. was added n-butyllithium (4.0 mL of 2.5 M in hexanes) in a slow stream via syringe. After 15 minutes, triisopropylborate (3.0 mL, 13 mmol) was added in a slow stream via syringe. After 10 minutes, the resultant homogeneous solution was allowed to warm to ambient temperature over 45 minutes and partitioned between EtOAc (50 mL) and 10% aqueous HCI (50 mL). The aqueous layer was separated and extracted with more EtOAc. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated to give a crude product which was triturated with hexanes to yield 1.53 g (90%) of 4-biphenylboronic acid as a white solid. 1H NMR (DMSO-d6): δ 8.05 (s, 2H), 7.83 (d, 2H, J=8.5 Hz), 7.65 (d, 2H, J=7.0 Hz), 7.60 (d, 2H, J=8.1 Hz), 7.43 (t, 2H, J=7.4 Hz), 7.33 (t, 1H, J=7.2 Hz). Anal. C12H11BO2 : C, 72.78; H, 560. Found: C, 72.51; H, 5.62.

reactant | 4-bromobiphenyl | 8.58 mmol, 2.00 g | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | n-butyllithium | 2.5 M, 4.0 mL | C(CCC)[Li]
reactant | triisopropylborate | 13 mmol, 3.0 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-Biphenylboronic acid | C1(=CC=C(C=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
